US04479962
1-(Indazol-4-yloxy)-3-[2-(2,6-dimethylphenylamino)ethylamino]-propan-2-ol
6.8 g. 1-(2-Benzylindazol-4-yloxy)-3-[2-(2,6-dimethylphenylamino)-ethylamino]-propan-2-ol in 100 ml. methanol and 10 ml. concentrated hydrochloric acid are hydrogenated over 0.9 g. of 10% palladium-charcoal. After suction filtration, the filtrate is evaporated, the residue is dissolved in water, rendered alkaline with aqueous sodium hydroxide solution and extracted with methylene chloride. The organic phase is evaporated and the residue is triturated with diethyl ether and filtered off with suction. After recrystallization from ethyl acetate, the desired compound is obtained in a yield of 3.9 g. (72% of theory); m.p. 127°-128° C.

reactant | 1-(2-Benzylindazol-4-yloxy)-3-[2-(2,6-dimethylphenylamino)-ethylamino]-propan-2-ol | C(C1=CC=CC=C1)N1N=C2C=CC=C(C2=C1)OCC(CNCCNC1=C(C=CC=C1C)C)O | C27H32N4O2
reactant | hydrochloric acid | Cl | ClH
catalyst | palladium-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 1-(Indazol-4-yloxy)-3-[2-(2,6-dimethylphenylamino)ethylamino]-propan-2-ol | N1N=CC2=C(C=CC=C12)OCC(CNCCNC1=C(C=CC=C1C)C)O | C20H26N4O2
